US06683181B2
A solution of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide (0.16 g), PdCl2(PPh3)2, CuI (0.018 g) and 3-butyn-1-ol (0.03 mL) in 15 mL Et2NH is stirred at room temperature for 7 days. The solid in the reaction is filtered and rinsed with EtOAc. The filtrate is partitioned between EtOAc and H2O. The aqueous layer is extracted with EtOAc (3×). The organic layers and the solid previously filtered are combined, concentrated, adsorbed onto silica and chromatographed (gradient from CH2Cl2 to 4% MeOH in CH2Cl2). Product-containing fractions are combined and condensed to afford 101.6 mg (71%) of N-(4-chlorobenzyl)-2-(2-hydroxyethyl)-6-oxo-8-(tetrahydro-2H-pyran-4-ylmethyl)-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide as a tan solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxamide | 0.16 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CC2CCOCC2)I)C=C1 | C23H22ClIN2O3
reactant | 3-butyn-1-ol | 0.03 mL | C(CC#C)O | C4H6O
solvent | Et2NH | 15 mL | N(CC)CC | C4H11N
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.018 g | [Cu]I
product | N-(4-chlorobenzyl)-2-(2-hydroxyethyl)-6-oxo-8-(tetrahydro-2H-pyran-4-ylmethyl)-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 101.6 mg, 71% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CC2CCOCC2)C=C3CCO)C=C1 | C27H27ClN2O4
